US07728032B2
3-[4-(4-Hydroxy-phenyl)-piperazin-1-yl]-butyric acid methyl ester
To a mixture of 4-piperazin-1-yl-phenol (2 g, 11.2 mmol) and methyl 3-bromo-butyrate (2.03 g, 11.2 mmol) in DMF (5 mL) was added triethylamine (4.5 mL, 11.53 mmol) dropwise and the reaction mixture was stirred at ambient temperature overnight. The mixture was poured onto water and extracted with ethyl acetate (50 ml×3). The combined organic layers were washed with brine, dried over anhydrous Na2SO4 and evaporated under vacuum to dryness. The residue was purified by silica gel flash chromatography (1% methanol in CH2Cl2) to furnish the title compound (1.85 g, 59.3%); MS; m/z 279 (M+H).

reactant | 4-piperazin-1-yl-phenol | 11.2 mmol, 2 g | N1(CCNCC1)C1=CC=C(C=C1)O | C10H14N2O
reactant | methyl 3-bromo-butyrate | 11.2 mmol, 2.03 g | BrC(CC(=O)OC)C | C5H9BrO2
reactant | triethylamine | 11.53 mmol, 4.5 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-[4-(4-Hydroxy-phenyl)-piperazin-1-yl]-butyric acid methyl ester | 1.85 g, 59.3% | COC(CC(C)N1CCN(CC1)C1=CC=C(C=C1)O)=O | C15H22N2O3
